US06548694B2
The (RS)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester (44 mg) described in example 1.8 was suspended in THF (0.9 ml). A 1 M solution of NaOH (0.101 ml) was added and the mixture was stirred for 30 min at 0° C. and for 2.5 h at room temperature. The mixture was neutralized with 1 M HCl and concentrated to give 42 mg of (RS)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid sodiumchloride as a colorless solid. MS: 408 ([M+H]+).

reactant | (RS)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester | 44 mg | C(C)OC(C(NC1=CC=C(C=C1)C(NO)=N)C1=C(C=C(C(=C1)OCC)OCCO)F)=O | C21H26FN3O6
reactant | NaOH | 0.101 ml | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 0.9 ml | C1CCOC1 | C4H8O
product | (RS)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid sodiumchloride | 42 mg | [Cl-].[Na+].C(C)OC=1C(=CC(=C(C1)C(C(=O)O)NC1=CC=C(C=C1)C(NO)=N)F)OCCO | InChI=1S/C19H22FN3O6.ClH.Na/c1-2-28-15-9-13(14(20)10-16(15)29-8-7-24)17(19(25)26)22-12-5-3-11(4-6-12)18(21)23-27;;/h3-6,9-10,17,22,24,27H,2,7-8H2,1H3,(H2,21,23)(H,25,26);1H;/q;;+1/p-1
